US20010044119A1
Binder DNA oligonucleotide-derivatized porous silicon films were employed to test the selectivity and limits of detection of a contemplated sensor. For attachment of DNA, a trimethoxy-3-bromoacetamido-propylsilane linker was synthesized by reaction of bromoacetic acid with trimethoxy-(3-aminopropyl)silane in the presence of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide-hydrochloride in methylene chloride as solvent The linker product was purified by column chromatography on silica gel. The oxidized porous silicon samples were then contacted with a toluene solution of the linker for 2 hours. The resulting linker-bound substrate was thoroughly rinsed with pure toluene and methylene chloride, and dried for about 18 hours under reduced pressure.

reactant | bromoacetic acid | BrCC(=O)O | C2H3BrO2
reactant | trimethoxy-(3-aminopropyl)silane | CO[Si](CCCN)(OC)OC | C6H17NO3Si
solvent | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide-hydrochloride | Cl.CN(CCCN=C=NCC)C
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | trimethoxy-3-bromoacetamido-propylsilane | CO[Si](CCCNC(CBr)=O)(OC)OC | C8H18BrNO4Si
